US08877782B2
(S)-2-{[6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridine-3-carbonyl]-amino}-3-phenyl-propionic acid methyl ester
As described for example 191, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid (111 mg, 0.36 mmol) was converted, using L-phenylalanine methylester hydrochloride instead of 2-aminoethyl isopropylether, to the title compound (148 mg, 88%) which was obtained as a white solid. MS: m/e=470.1 [M−H]−.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.36 mmol, 111 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | L-phenylalanine methylester hydrochloride | Cl.COC([C@@H](N)CC1=CC=CC=C1)=O
product | (S)-2-{[6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridine-3-carbonyl]-amino}-3-phenyl-propionic acid methyl ester | 148 mg, 88% | COC([C@H](CC1=CC=CC=C1)NC(=O)C=1C=NC(=CC1)OCC=1C(=NOC1C)C1=CC=CC=C1)=O | C27H25N3O5
